US07470710B2
(RS)-1-[5(4 Fluoro-phenyl)2-methyl-thiazol-4-yl]-1-{[4-(1-hydroxy-ethyl)-1H-benzoimidazol-2-ylmethyl]-piperidin-1-yl}-methanone
Sodium borohydride (145 mg) was added portionwise over 2 min. to a cooled (0-10° C.) solution of (RS)-1-[2-(4-acetyl-1H-benzimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone, E68 (365 mg) in methanol (10 ml). After stirring for a further 2.5 h at room temperature, water (100 ml) was added and the mixture was extracted with dichloromethane (2×). The combined organics were dried (Na2SO4), evaporated and the residue chromatographed (silica gel, 0-100% ethyl acetate-hexane then 2-10% methanol-ethyl acetate) to afford the title compound as a solid (320 mg).

reactant | Sodium borohydride | 145 mg | [BH4-].[Na+]
reactant | (RS)-1-[2-(4-acetyl-1H-benzimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone | C(C)(=O)C1=CC=CC=2NC(=NC21)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C26H25FN4O2S
reactant | water | 100 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | (RS)-1-[5(4 Fluoro-phenyl)2-methyl-thiazol-4-yl]-1-{[4-(1-hydroxy-ethyl)-1H-benzoimidazol-2-ylmethyl]-piperidin-1-yl}-methanone | 320 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC1=NC2=C(N1)C=CC=C2C(C)O | C26H27FN4O2S
